simulator lang=spectre

include "../../../SUBCKTS/subvt_bitcell.scs"

//============================================
// Define VDD and VSS
//============================================
VVDD (VDD 0) vsource dc=pvdd
VVSS (VSS 0) vsource dc=0

//====================================================
// Subcircuit to measure SNM value
//====================================================
subckt SNMmeas (U INV1in INV1out INV2in INV2out v1mv2)
  e1 (1 0 U 0) vcvs gain=1/sqrt(2)
  e2 (INV1in 1 v1 0) vcvs gain=1/sqrt(2)
  ev1 (v1 U INV1out 0) vcvs gain=sqrt(2)
  Rdummy  (v1 0)  resistor r=100M
  Rdummy2 (v2 0) resistor r=100M
  Rdummy3 (v1mv2 0) resistor r=100M

  e3 (3 0 U 0) vcvs gain=-1/sqrt(2)
  e4 (INV2in 3 v2 0) vcvs gain=1/sqrt(2)
  enu (nu 0 U 0) vcvs gain=-1
  ev2 (v2 nu INV2out 0) vcvs gain=sqrt(2)
  ediff1 (negv2 0 v2 0) vcvs gain=-1
  ediff2 (v1mv2 negv2 v1 0) vcvs gain=1
ends SNMmeas


//============================================
// Test Read SNM
//============================================

ICell (in1 in2 out1 out2 BL BLB WL VDD VDD VSS VSS) TWOHALFCELL10T_st 

// Note: By removing the measurement circuit hierarchy, we can get the
//  same variation samples as the other write margin tests
//Isnmh (U in1 out1 in2 out2 v1mv2) SNMmeas
e1 (1 0 U 0) vcvs gain=1/sqrt(2)
e2 (in1 1 v1 0) vcvs gain=1/sqrt(2)
ev1 (v1 U out1 0) vcvs gain=sqrt(2)
Rdummy  (v1 0)  resistor r=100M
Rdummy2 (v2 0) resistor r=100M
Rdummy3 (v1mv2 0) resistor r=100M
e3 (3 0 U 0) vcvs gain=-1/sqrt(2)
e4 (in2 3 v2 0) vcvs gain=1/sqrt(2)
enu (nu 0 U 0) vcvs gain=-1
ev2 (v2 nu out2 0) vcvs gain=sqrt(2)
ediff1 (negv2 0 v2 0) vcvs gain=-1
ediff2 (v1mv2 negv2 v1 0) vcvs gain=1


VU (U 0) vsource dc=pvIn
VWL (WL 0) vsource dc=0
VBL (BL 0) vsource dc=pvdd
VBLB (BLB 0) vsource dc=pvdd




